US05948911
Following the procedure of Example 1, the reaction of 3-nitrobenzylamine with 2,4-dichloro-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-ethyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 2,4-dichloro-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)Cl | C8H6Cl2N2S
product | 2-chloro-6-ethyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC(=CC=C2)[N+](=O)[O-] | C15H13ClN4O2S
